US07816557B2
To a mixture of 4-[1-(4-bromo-phenylsulfanyl)-3-methyl-butyl]-benzoic acid (379 mg, 1 mmol) in methylene chloride (10 mL) are added triethyl amine (0.42 mL, 3 mmol), DMAP (5.0 mg), 3-amino-propionic acid methyl ester (209 mg, 1.5 mmol) and EDCI (577 mg, 3.0 mmol) at room temperature. The reaction mixture is stirred at room temperature overnight, loaded on silica gel, eluted with eluted with hexanes with a gradient from 0% of ethyl acetate to 100% of ethyl acetate giving 3-{4-[1-(4-Bromo-phenylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester (350 mg).

reactant | 4-[1-(4-bromo-phenylsulfanyl)-3-methyl-butyl]-benzoic acid | 1 mmol, 379 mg | BrC1=CC=C(C=C1)SC(CC(C)C)C1=CC=C(C(=O)O)C=C1 | C18H19BrO2S
reactant | triethyl amine | 3 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-propionic acid methyl ester | 1.5 mmol, 209 mg | COC(CCN)=O | C4H9NO2
reactant | EDCI | 3.0 mmol, 577 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-{4-[1-(4-Bromo-phenylsulfanyl)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | 350 mg | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)SC1=CC=C(C=C1)Br)=O)=O | C22H26BrNO3S
